US09315521B2
To a solution of the 1-chloro-2-methyl-3-nitrobenzene (2.0 g, 11.66 mmol) in anhydrous carbon tetrachloride 50 mL, NBS (2.07 g, 11.66 mmol) and benzoyl peroxide (0.141 g, 0.583 mmol) was added. The reaction mixture was heated to reflux overnight. Then, the reaction mixture was cooled to room temperature and filtered. The filtrate was evaporated to provide crude 2-(bromomethyl)-1-chloro-3-nitrobenzene, which was used for the next step without any further purification (2.93 g); 1H NMR (400 MHz, DMSO-d6): δ 4.77 (s, 2H), 7.60 (t, J=6.2, 8.2 Hz, 1H), 7.90 (d, J=8.2 Hz, 1H), 8.00 (d, J=8.2 Hz, 1H).

reactant | 1-chloro-2-methyl-3-nitrobenzene | 11.66 mmol, 2.0 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | NBS | 11.66 mmol, 2.07 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.583 mmol, 0.141 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-1-chloro-3-nitrobenzene | BrCC1=C(C=CC=C1[N+](=O)[O-])Cl | C7H5BrClNO2
